US05739336
A mixture of 1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]-4-piperidone (6.62 g, 18 mmol), potassium cyanide (1.4 g, 35.8 mmol), ammonium chloride (2.46 g, 37 mmol), ammonium hydroxide (14M, 4 mL, 56 mmol), water (25 mL) and methanol (120 mL) was heated 2 hours with stirring at approximately 25° C. and then 5 hours at 60° C. The mixture was concentrated and the residue was dissolved in ethyl acetate. The solution was washed with water (3×) and brine (1×), dried (MgSO4) and concentrated to give 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]piperidine-4-carbonitrile (5.2 g, 13.1 mmol).

reactant | 1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]-4-piperidone | 18 mmol, 6.62 g | ClC=1C=CC(=C(C1)C1(CCCCN2CCC(CC2)=O)OCCO1)OC | C19H26ClNO4
reactant | potassium cyanide | 35.8 mmol, 1.4 g | [C-]#N.[K+]
reactant | ammonium chloride | 37 mmol, 2.46 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 56 mmol, 14M, 4 mL | [OH-].[NH4+]
solvent | methanol | 120 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 4-amino-1-[5-(5-chloro-2-methoxyphenyl)-5,5-ethylenedioxypentyl]piperidine-4-carbonitrile | 13.1 mmol, 5.2 g | NC1(CCN(CC1)CCCCC1(OCCO1)C1=C(C=CC(=C1)Cl)OC)C#N | C20H28ClN3O3
